US06903085B1
N-[1-(3,4-dichlorobenzy)-4-piperidinyl]-N′-(5-phenyl-2-pyrimidinyl)-1,2-ethandiamine
The title compound (20 mg) was prepared by heating at reflux N1-[1-(3,4-dichlorobenzyl)-4-piperidinyl]-1,2-ethanediamine (100 mg) and 2-chloro-5-phenypyrimidine (100 mg) and Hunigs' base (100 mg) in toluene for 8 hours. The mixture was purified by chromatography on silica, with ethyl acetate methanol (9:1) as eluant to give the title compound as a yellow oil. MS [M+h]+ (ES+) 456/8 1H NMR: (CDCl3) δ 1.51 (2H, m), 1.75 (2H, m), 2.15 (2H, td), 2.9 (2H, m), 3.05 (1H, m), 3.15 (2H, m), 3.44 (2H, m), 3.8 (2H, m), 6.65 (1H, m), 7.0-7.4 (8H, m), 8.5 (2H, m).

reactant | N1-[1-(3,4-dichlorobenzyl)-4-piperidinyl]-1,2-ethanediamine | 100 mg | ClC=1C=C(CN2CCC(CC2)NCCN)C=CC1Cl | C14H21Cl2N3
reactant | 2-chloro-5-phenypyrimidine | 100 mg | ClC1=NC=C(C=N1)C1=CC=CC=C1 | C10H7ClN2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-[1-(3,4-dichlorobenzy)-4-piperidinyl]-N′-(5-phenyl-2-pyrimidinyl)-1,2-ethandiamine | ClC=1C=C(CN2CCC(CC2)NCCNC2=NC=C(C=N2)C2=CC=CC=C2)C=CC1Cl | C24H27Cl2N5
